US08835411B2
Benzyl 1-cyano-4-fluoro-4-(hydroxymethyl)cyclohexylcarbamate
A flask was charged with 1-amino-4-fluoro-4-(hydroxymethyl)cyclohexanecarbonitrile, Intermediate 32, (12.2 g, 70.8 mmol), CH2Cl2 (200 mL), water (80 mL) and benzyl chlorocarbonate (12.14 mL, 85 mmol) and the mixture stirred under nitrogen overnight. The CH2Cl2 portion of the reaction mixture was separated, washed with water then brine, dried (MgSO4) and concentrated to give a yellow oil. The oil was purified by column chromatography on silica gel, eluted with hexane/ethyl acetate (0 to 100%). The appropriate fractions were combined and the solvent evaporated to provide the title compound (13.1 g, 42.8 mmol, 60.4% yield)] as a colorless oil that crystallized upon standing.

reactant | 1-amino-4-fluoro-4-(hydroxymethyl)cyclohexanecarbonitrile | NC1(CCC(CC1)(CO)F)C#N | C8H13FN2O
reactant | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
reactant | benzyl chlorocarbonate | 85 mmol, 12.14 mL | C(OCC1=CC=CC=C1)(=O)Cl | C8H7ClO2
solvent | water | 80 mL | O | H2O
product | Benzyl 1-cyano-4-fluoro-4-(hydroxymethyl)cyclohexylcarbamate | 42.8 mmol, 13.1 g, 60.4% yield | C(#N)C1(CCC(CC1)(CO)F)NC(OCC1=CC=CC=C1)=O | C16H19FN2O3
